Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
Cl[C:1]([CH3:2])=[O:3].[CH3:4][O:5][c:6]1[n:7][cH:8][c:9]([N:10]2[CH2:11][CH2:12][O:13][c:14]3[cH:15][cH:16][c:17]([O:18][C@H:19]4[CH2:20][CH2:21][N:22]([C:23](=[O:24])[C@H:25]5[CH2:26][CH2:27][NH:28][CH2:29]5)[CH2:30]4)[cH:31][c:32]32)[cH:33][c:34]1[C:35]#[N:36]>>[C:1]([CH3:2])(=[O:3])[N:28]1[CH2:27][CH2:26][C@H:25]([C:23]([N:22]2[CH2:21][CH2:20][C@H:19]([O:18][c:17]3[cH:16][cH:15][c:14]4[c:32]([cH:31]3)[N:10]([c:9]3[cH:8][n:7][c:6]([O:5][CH3:4])[c:34]([C:35]#[N:36])[cH:33]3)[CH2:11][CH2:12][O:13]4)[CH2:30]2)=[O:24])[CH2:29]1,[CH3:4][O:5][c:6]1[n:7][cH:8][c:9]([N:10]2[CH2:11][CH2:12][O:13][c:14]3[cH:15][cH:16][c:17]([O:18][C@H:19]4[CH2:20][CH2:21][N:22]([C:23](=[O:24])[C@H:25]5[CH2:26][CH2:27][NH:28][CH2:29]5)[CH2:30]4)[cH:31][c:32]32)[cH:33][c:34]1[C:35]#[N:36].[Cl:101][C:1]([CH3:2])=[O:3]>>[C:1]([CH3:2])(=[O:3])[N:28]1[CH2:27][CH2:26][C@H:25]([C:23]([N:22]2[CH2:21][CH2:20][C@H:19]([O:18][c:17]3[cH:16][cH:15][c:14]4[c:32]([cH:31]3)[N:10]([c:9]3[cH:8][n:7][c:6]([O:5][CH3:4])[c:34]([C:35]#[N:36])[cH:33]3)[CH2:11][CH2:12][O:13]4)[CH2:30]2)=[O:24])[CH2:29]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(28, 1), ([1, 3], 3), (3, [3, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[CH2:1][C:2](=[O:3])[OH:4].[CH2:5]=[C:6]([CH3:7])[C@@H:8]1[CH2:9][CH2:10][C@@H:11]([CH3:12])[CH2:13][C@H:14]1[OH:15]>>[CH2:1]([C:2](=[O:3])[OH:4])[O:15][C@H:14]1[C@H:8]([C:6](=[CH2:5])[CH3:7])[CH2:9][CH2:10][C@@H:11]([CH3:12])[CH2:13]1,[CH2:5]=[C:6]([CH3:7])[C@@H:8]1[CH2:9][CH2:10][C@@H:11]([CH3:12])[CH2:13][C@H:14]1[OH:15].[Cl:101][CH2:1][C:2](=[O:3])[OH:4].[H-:301].[Na+]>>[CH2:1]([C:2](=[O:3])[OH:4])[O:15][C@H:14]1[C@H:8]([C:6](=[CH2:5])[CH3:7])[CH2:9][CH2:10][C@@H:11]([CH3:12])[CH2:13]1,SN2_alcohol(thiol),"[(301, 15.1), ([15.1, 15], 15), (15, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[CH:1][c:2]1[cH:3][cH:4][c:5]([N:6]([CH3:7])[CH3:8])[c:9]([N+:10](=[O:11])[O-:12])[cH:13]1.[CH3:14][C:15]([CH3:16])([CH3:17])[O:18][C:19](=[O:20])[N:21]1[CH2:22][CH2:23][CH:24]([NH2:25])[CH2:26][CH2:27]1>>[CH2:1]([c:2]1[cH:3][cH:4][c:5]([N:6]([CH3:7])[CH3:8])[c:9]([N+:10](=[O:11])[O-:12])[cH:13]1)[NH:25][CH:24]1[CH2:23][CH2:22][N:21]([C:19]([O:18][C:15]([CH3:14])([CH3:16])[CH3:17])=[O:20])[CH2:27][CH2:26]1,[O:101]=[CH:1][c:2]1[cH:3][cH:4][c:5]([N:6]([CH3:7])[CH3:8])[c:9]([N+:10](=[O:11])[OH:12])[cH:13]1.[CH3:14][C:15]([CH3:16])([CH3:17])[O:18][C:19](=[O:20])[N:21]1[CH2:22][CH2:23][CH:24]([NH2:25])[CH2:26][CH2:27]1.[H+:301].[BH3-:302]C#N.[Na+]>>[CH2:1]([c:2]1[cH:3][cH:4][c:5]([N:6]([CH3:7])[CH3:8])[c:9]([N+:10](=[O:11])[OH:12])[cH:13]1)[NH:25][CH:24]1[CH2:23][CH2:22][N:21]([C:19]([O:18][C:15]([CH3:14])([CH3:16])[CH3:17])=[O:20])[CH2:27][CH2:26]1,reductive_amination,"[(25, 1), ([1, 101], 301), (101, 25.1), ([25.1, 25], 25), (25, [25, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 25], 25)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1]([C@H:2]([CH2:3][C:4]#[CH:5])[NH:6][C:7](=[O:8])[O:9][C:10]([CH3:11])([CH3:12])[CH3:13])=[O:14].[NH3:15]>>[C:1]([C@H:2]([CH2:3][C:4]#[CH:5])[NH:6][C:7](=[O:8])[O:9][C:10]([CH3:11])([CH3:12])[CH3:13])(=[O:14])[NH2:15],[OH:101][C:1]([C@H:2]([CH2:3][C:4]#[CH:5])[NH:6][C:7](=[O:8])[O:9][C:10]([CH3:11])([CH3:12])[CH3:13])=[O:14].[NH3:15].[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([C@H:2]([CH2:3][C:4]#[CH:5])[NH:6][C:7](=[O:8])[O:9][C:10]([CH3:11])([CH3:12])[CH3:13])(=[O:14])[NH2:15],DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (15, 1), ([1, 14], 14), (303, 15.1), ([15.1, 15], 15), (14, [14, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
